US04652303
3-Chloroallyloxyamine hydrochloride (0.3 g) and then anhydrous sodium acetate (0.2 g) were added to a solution of 3-hydroxy-5-(3-crotonyl-2,4,6-trimethylphenyl)-2-propionylcyclohex-2-en-1-one (0.7 g) in anhydrous ethanol (80 ml). The mixture was stirred briefly then allowed to stand at room temperature for 16 hours. The ethanol was removed by evaporation under reduced pressure using a rotary evaporator. The residue was treated with chloroform and the organic phase was washed twice with water (50 ml). The chloroform layer was dried over magnesium sulphate and the solvent was removed by evaporation under reduced pressure to give the product 2-[1-(3-chloroallyloxyimino)propyl]-3-hydroxy-5-(3-crotonyl-2,4,6-trimethylphenyl)cyclohex-2-en-1-one (0.7 g, 85%) as a colourless oil. Proton magnetic spectrum (CDCl3 ; δ in ppm); 1.19 (3H, t); 1.92 (3H, d, J=7 Hz); 2.09 (3H, s); 2.19 (3H, s); 2.39 (3H, s); 2.2-4.0 (7H, m); 4.4-4.8 (2H, m); 5.86.7 (4H, m); 6.86 (1H, s); 15.2 (1 H, bs).

reactant | 3-Chloroallyloxyamine hydrochloride | 0.3 g | Cl.ClC=CCON
reactant | sodium acetate | 0.2 g | C(C)(=O)[O-].[Na+]
reactant | 3-hydroxy-5-(3-crotonyl-2,4,6-trimethylphenyl)-2-propionylcyclohex-2-en-1-one | 0.7 g | OC1=C(C(CC(C1)C1=C(C(=C(C=C1C)C)C(\C=C\C)=O)C)=O)C(CC)=O | C22H26O4
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-[1-(3-chloroallyloxyimino)propyl]-3-hydroxy-5-(3-crotonyl-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 0.7 g, 85% | ClC=CCON=C(CC)C=1C(CC(CC1O)C1=C(C(=C(C=C1C)C)C(\C=C\C)=O)C)=O | C25H30ClNO4
